US06306891B1
4-[3-Methyl-1-(3-chlorobenzyl)-1H-pyrazol-4-yl]-2,4-dioxobutyric acid BV-4-1
In a similar manner to AI-3-1, 4-[3-methyl-1-(3-chlorobenzyl)-1H-pyrazol-4-yl]-2,4-dioxobutyric acid ethyl ester (crude from above) was reacted with 5 ml 1N NaOH in 20 ml methanol for two hours to give the title compound as a light tan solid. MP=183-184° C. 1H NMR (400 MHz, CDCl3) δ 2.54 (s, 3H), 5.23 (s, 2H), 6.67 (s, 1H), 7.12-7.18 (m, 1H), 7.25 (s, 1H), 7.31-7.36 (m, 2H), 7.97 (2, 1H).

reactant | 4-[3-methyl-1-(3-chlorobenzyl)-1H-pyrazol-4-yl]-2,4-dioxobutyric acid ethyl ester | C(C)OC(C(CC(=O)C=1C(=NN(C1)CC1=CC(=CC=C1)Cl)C)=O)=O | C17H17ClN2O4
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-[3-Methyl-1-(3-chlorobenzyl)-1H-pyrazol-4-yl]-2,4-dioxobutyric acid | CC1=NN(C=C1C(CC(C(=O)O)=O)=O)CC1=CC(=CC=C1)Cl | C15H13ClN2O4
